US07960562B2
60% Sodium hydride (809 mg) was added to a DMF (30 mL) solution of formamidine hydrochloride (1.92 g), followed by stirring at room temperature for 15 minutes. A DMF (10 mL) solution of 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]benzenesulfonyl chloride (hereinafter referred to as starting compound A, 1.13 g) was added, followed by stirring at room temperature for 1.5 hours. The reaction mixture was poured into an excess amount of aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was washed with water, concentrated under reduced pressure, purified by silica gel column chromatography (chloroform/methanol=10/1), and crystallized from diethyl ether/n-hexane to obtain 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]-N-(iminomethyl)benzenesulfonamide (81 mg).

reactant | Sodium hydride | 809 mg | [H-].[Na+]
reactant | formamidine hydrochloride | 1.92 g | Cl.C(=N)N
reactant | 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]benzenesulfonyl chloride | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)Cl)=C1NC2=C(N1)C=CC=C2)=O | C22H13ClF2N2O4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]-N-(iminomethyl)benzenesulfonamide | 81 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC=N)=C1NC2=C(N1)C=CC=C2)=O | C23H16F2N4O4S
